US09302996B2
In trifluoroacetic acid (5.0 mL) and water (0.5 mL) was dissolved 1-{[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclopropanecarboxylic acid (219 mg), and the solution was stirred at room temperature for 5 hours. The reaction mixture was concentrated under reduced pressure, a small amount of tetrahydrofuran was added to the residue, and the mixture was neutralized by 1N aqueous sodium hydroxide solution. Several drops of acetic acid was added to the mixture, the mixture was extracted with ethyl acetate, washed with a saturated brine, and the organic layer was separated and concentrated under reduced pressure. Isopropyl ether was added to the obtained residue, and the precipitated solid was collected by filtration and dried under reduced pressure to obtain 1-{[(5-{3-chloro-4-[5-(trifluoromethyl)-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclopropanecarboxylic acid (95 mg).

reactant | 1-{[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclopropanecarboxylic acid | 219 mg | ClC=1C=C(C=CC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C(=CC(=NC1)OCC1(CC1)C(=O)O)C | C27H31ClF3N3O4Si
solvent | trifluoroacetic acid | 5.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 0.5 mL | O | H2O
product | 1-{[(5-{3-chloro-4-[5-(trifluoromethyl)-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclopropanecarboxylic acid | 95 mg | ClC=1C=C(C=CC1C=1NC(=CN1)C(F)(F)F)C=1C(=CC(=NC1)OCC1(CC1)C(=O)O)C | C21H17ClF3N3O3
